US04791139
Stage 1: Preparation of 2,3,4,5,6-pentafluorobenzylbromide
A mixture of phosphorus tribromide (2.1 g) and toluene (1 cm3) was added dropwise to a solution of 2,3,4,5,6-pentafluorobenzylalcohol (3.4 g) and pyridine (0.21 g) in toluene (10 cm3) at 0° C. The reaction mixture was stirred at 0° C. for 45 minutes, then at the ambient temperature (ca. 20° C.) for 75 minutes, and was then added to an excess of saturated sodium bicarbonate solution. The products were extracted into diethyl ether, and the combined ether layers dried and concentrated by evaporation under reduced pressure. The residual solution (still containing toluene) was passed through a plug of silica gel.

reactant | phosphorus tribromide | 2.1 g | P(Br)(Br)Br | Br3P
reactant | 2,3,4,5,6-pentafluorobenzylalcohol | 3.4 g | FC1=C(CO)C(=C(C(=C1F)F)F)F | C7H3F5O
reactant | pyridine | 0.21 g | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 10 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 cm3 | C1(=CC=CC=C1)C | C7H8
product | 2,3,4,5,6-pentafluorobenzylbromide | FC1=C(CBr)C(=C(C(=C1F)F)F)F | C7H2BrF5
